US05739132
2-n-Butylsulfonylamino-6-[4,5-dihydropyridazin-3(2H)-on-6-yl]-1,2,3,4-tetrahydronaphthalene was treated with dimethylsulfoxide-25% hydrogen bromide-acetic acid in the same manner as in Example 60 to obtain 2-n-butylsulfonylamino-6-[pyridazin-3(2H)-on-6-yl]-1,2,3,4-tetrahydronaphthalene.

reactant | 2-n-Butylsulfonylamino-6-[4,5-dihydropyridazin-3(2H)-on-6-yl]-1,2,3,4-tetrahydronaphthalene | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2CC1)C=1CCC(NN1)=O | C18H25N3O3S
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-n-butylsulfonylamino-6-[pyridazin-3(2H)-on-6-yl]-1,2,3,4-tetrahydronaphthalene | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2CC1)C=1C=CC(NN1)=O | C18H23N3O3S
